US07241792B2
To a solution of (R)-4-(hex-3-ynyl)-2,2-dimethyl-1,3-dioxolane (6.49 g, 35.6 mmol) in hexanes (100 mL) was added 5% palladium on BaSO4 (1.14 g), and quinoline (freshly distilled from Zn dust, 0.631 ml, 5.34 mmol). The flask was then purged with H2 and stirred under an H2 atmosphere for 2 h. The reaction mixture was filtered through celite and washed sequentially with 1N HCl (2×) and brine. The organics were dried over MgSO4, filtered, and concentrated to give (R,Z)-4-(hex-3-enyl)-2,2-dimethyl-1,3-dioxolane which was used without further purification. This material contained approximately 7% of the trans olefin isomer which was carried through the synthetic route as a mixture (data not shown for minor isomer) eventually producing the corresponding exo-ethyl pyrazole acid derivative after separation by reverse phase HPLC (vide infra). 1H NMR (400 MHz, CDCl3): δ 5.40 (1H, m), 5.31 (1H, m), 4.06 (2H, m), 3.52 (1H, t, J=4.8 Hz), 2.09 (4H, m), 1.71 (1H, m), 1.54 (1H, m), 1.41 (3H, s), 1.35 (3H, s), 0.96 (3H, t, J=Hz).

reactant | (R)-4-(hex-3-ynyl)-2,2-dimethyl-1,3-dioxolane | 35.6 mmol, 6.49 g | C(CC#CCC)[C@H]1OC(OC1)(C)C | C11H18O2
reactant | quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
catalyst | palladium | [Pd] | Pd
product | (R,Z)-4-(hex-3-enyl)-2,2-dimethyl-1,3-dioxolane | C(C\C=C/CC)[C@H]1OC(OC1)(C)C | C11H20O2
